US07932262B2
The crude 8-methoxy-5-(trifluoromethyl) quinazolin-2-ol was heated in neat phosphooxychloride (POCl3) at 110° C. for 2 h. The resulted mixture was cooled to room temperature and concentrated in vacuo to nearly dryness. Ice water was added and precipitate was filtered, washed and dried to provide 2-chloro-8-methoxy-5-(trifluoromethyl) quinazoline as a light pink solid in 70% yield. ES/MS m/z 263.0 (MH+).

reactant | 8-methoxy-5-(trifluoromethyl) quinazolin-2-ol | COC=1C=CC(=C2C=NC(=NC12)O)C(F)(F)F | C10H7F3N2O2
reactant | phosphooxychloride | P(=O)(=O)OCl | ClO3P
product | 2-chloro-8-methoxy-5-(trifluoromethyl) quinazoline | 70% yield | ClC1=NC2=C(C=CC(=C2C=N1)C(F)(F)F)OC | C10H6ClF3N2O
